US06071903
Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-nitrobenzyl)amino]propionate
To a solution of 0.289 g (1 mmol) of methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate in 4 ml of N,N-dimethylformamide cooled in an ice bath was added 40 mg of NaH (60% in oil) (1 mmol). After the gas evolution ceased, 0.165 g (1.1 mmol) of sodium iodide was added, followed by the addition of 0.226 g (1.1 mmol) of 4-chloro-2-nitrobenzyl chloride in 1 ml of dimethylformamide.

reactant | methyl 3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionate | 1 mmol, 0.289 g | OCC(C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO6S
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | sodium iodide | 1.1 mmol, 0.165 g | [I-].[Na+]
reactant | 4-chloro-2-nitrobenzyl chloride | 1.1 mmol, 0.226 g | ClC1=CC(=C(CCl)C=C1)[N+](=O)[O-] | C7H5Cl2NO2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Methyl 3-Hydroxy-2-[(4-methoxybenzenesulfonyl)-(4-chloro-2-nitrobenzyl)amino]propionate | OCC(C(=O)OC)N(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC | C18H19ClN2O8S
